US07001897B2
To a solution of L-isoleucinol (2.20 g, 18.8 mmol) in methylene chloride (66 ml) were added chloroformic acid benzyl ester (3.22 ml, 22.5 mmol) and triethylamine (3.15 ml, 22.5 mmol) in an ice bath, and the mixture was stirred at room temperature for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The obtained organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1→1:1) as the eluant to afford [(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]carbamic acid benzyl ester (4.17 g, yield 88%) as a colorless oil.

reactant | L-isoleucinol | 18.8 mmol, 2.20 g | N[C@@H]([C@@H](C)CC)CO | C6H15NO
reactant | chloroformic acid benzyl ester | 22.5 mmol, 3.22 ml | C(C1=CC=CC=C1)OC(=O)Cl | C8H7ClO2
reactant | triethylamine | 22.5 mmol, 3.15 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 66 ml | C(Cl)Cl | CH2Cl2
product | [(1S,2S)-1-(hydroxymethyl)-2-methylbutyl]carbamic acid benzyl ester | 4.17 g, yield 88% | C(C1=CC=CC=C1)OC(N[C@@H]([C@H](CC)C)CO)=O | C14H21NO3
